US04174405
A mixture 49.8 g (0.15 mole) of 1,2-diphenyl-4-p-fluorophenylbutane-1,4-dione, 100 ml of xylene, 30 g (0.0675 mole) of phosphorus pentasulfide and 130 g (3.81 moles) of hydrogen sulfide was heated and stirred in a 1-liter stainless steel autoclave for 4 hours at 157°-185° C. (620-1145 psig). After cooling the vessel to 20° C. and venting the hydrogen sulfide into a sodium hydroxide solution, the residue was stirred with 150 ml of absolute ethanol. Filtration gave 31.5 g (63.6%) of crude product, m.p. 108°-110° C. Recrystallization from 30 ml of dioxane and 90 ml of ethanol gave 24 g of pure 2,3-diphenyl-5-p-fluorophenylthiophene, m.p. 111°-113° C.

reactant | 1,2-diphenyl-4-p-fluorophenylbutane-1,4-dione | 0.15 mole, 49.8 g | C1(=CC=CC=C1)C(C(CC(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1)=O | C22H17FO2
reactant | phosphorus pentasulfide | 0.0675 mole, 30 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hydrogen sulfide | 3.81 moles, 130 g | S | H2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-diphenyl-5-p-fluorophenylthiophene | 24 g | C1(=CC=CC=C1)C=1SC(=CC1C1=CC=CC=C1)C1=CC=C(C=C1)F | C22H15FS
